US07772223B2
3-Methoxy-4-Chloro-Benzoic Acid Allyl Ester
Potassium carbonate (4.44 g, 32.156 mmol) and allyl bromide (2.78 ml, 32.156 mmol) were added to a stirred solution of 4-chloro-3-methoxybenzoic acid (3 g, 16.078 mmol) in N,N-dimethylformamide (30 ml) and allowed to stir at room temperature for 18 hours. The reaction mixture was partitioned between diethyl ether (200 ml) and water (150 ml), the organic phase extracted and further washed with water (150 ml), dried over sodium sulfate and concentrated in vacuo to afford the title compound as an orange oil in 98% yield, 3.57 g.

reactant | Potassium carbonate | 32.156 mmol, 4.44 g | C([O-])([O-])=O.[K+].[K+]
reactant | allyl bromide | 32.156 mmol, 2.78 ml | C(C=C)Br | C3H5Br
reactant | 4-chloro-3-methoxybenzoic acid | 16.078 mmol, 3 g | ClC1=C(C=C(C(=O)O)C=C1)OC | C8H7ClO3
solvent | N,N-dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
product | 3-Methoxy-4-Chloro-Benzoic Acid Allyl Ester | 98% yield | C(C=C)OC(C1=CC(=C(C=C1)Cl)OC)=O | C11H11ClO3
